US05728835
4-Propionylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide (238.0 mg, 0.50 mmol) and propionyl chloride (0.077 ml, 0.60 mmol), the procedure of Inventive Example 94 was repeated to obtain 240.0 mg (90.4%) of the title compound in a yellow amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 0.50 mmol, 238.0 mg | NC1=CC=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | propionyl chloride | 0.60 mmol, 0.077 ml | C(CC)(=O)Cl | C3H5ClO
product | 4-Propionylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 240.0 mg, 90.4% | C(CC)(=O)NC1=CC=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C31H34FN3O4
